US08623889B2
Step 2: 3-bromo-5-fluoro-2,4-dimethylpyridine 1-oxide
A mixture of 3-bromo-5-fluoro-2,4-dimethyl-pyridine (220 mg, 1.08 mmol) and 3-chloroperoxybenzoic acid (399 mg, 1.62 mmol) in dichloromethane (3 mL) was stirred overnight at room temperature. The reaction mixture was diluted with DCM (50 mL) and washed with saturated aqueous sodium thiosulfite (10 mL) followed by saturated aqueous sodium bicarbonate (10 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by flash chromatography (4 g, Silica, 0-10% methanol in DCM). Desired fractions were combined and evaporated in vacuo to afford the title compound as a white solid (220 mg, 93%), which was used in the next step without further purification.

reactant | 3-bromo-5-fluoro-2,4-dimethyl-pyridine | 1.08 mmol, 220 mg | BrC=1C(=NC=C(C1C)F)C | C7H7BrFN
reactant | 3-chloroperoxybenzoic acid | 1.62 mmol, 399 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-fluoro-2,4-dimethylpyridine 1-oxide | 220 mg, 93% | BrC=1C(=[N+](C=C(C1C)F)[O-])C | C7H7BrFNO
